US06472386B1
Synthesis of 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)-thiazole
4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)thiazole (2.0 g) was dissolved in dichloromethane (60 mL), and to the solution thionyl chloride (1.1 g) was added at 0° C. After 30 minutes, the mixture was warmed to room temperature and stirred for 4 hours. The reaction mixture was washed with water and saturated brine and dried over anhydrous sodium sulfate. After concentrating the reaction mixture under reduced pressure, the resultant crude crystals were recrystallized from chloroform-hexane to obtain the title compound.

reactant | 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)thiazole | 2.0 g | OCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C13H15NO4S
reactant | thionyl chloride | 1.1 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)-thiazole | ClCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C13H14ClNO3S
